Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with a PMHX of HTN,
depression, GERD, who presents with 1 week history of nausea,
vomiting, diarrhea, epigastric pain, and poor PO intake.

History taken with phone ___ interpreter, although hx was
very non-linear and tangential, and at times conflicting. 

Pt reports that for past week, she has been feeling nauseous and
having diarrhea and therefore unable to take her PO medications
(including her PPI), or much food. She denies taking any NSAIDs
recently. She reports having had epigastric pain the last few
days ___, that was worse when eating. She recently has not been
having any diarrhea, which she think is because she has not 
eaten
anything. She is passing gas regularly however. She also reports
having mucus stuck in throat, which would cause her to cough. 
She
reports feeling short of breath at times, although this is not
acute. Denies any chest pain, dysuria, melena, hematochezia,
fevers.

 
Past Medical History:
HTN
HLD
GERD
Hx of ectopic pregnancy
Hx of rheumatic fever
R knee replacement
 
Social History:
___
Family History:
Older sister with RA. Nephew with psoriasis. Sister with thyroid
disease. 
 
Physical Exam:
GEN: NAD
HENT: oral mucosa moist
CV: RRR, no murmurs, no JVD
RESP: non-labored on room air, good air entry, no crackles, no
wheezes
GI: soft, non-tender, non-distended, no rebound tenderness,
normal bowel sounds
GU: no suprapubic tenderness
EXT: no edema
SKIN: no jaundice
NEURO: alert, oriented x4
PSYCH: calm
 
Pertinent Results:
___ 06:10AM BLOOD WBC-4.0 RBC-4.00 Hgb-11.2 Hct-35.6 MCV-89 
MCH-28.0 MCHC-31.5* RDW-14.6 RDWSD-46.8* Plt ___
___ 06:10AM BLOOD Glucose-111* UreaN-11 Creat-0.8 Na-149* 
K-5.0 Cl-108 HCO3-28 AnGap-___ yo F with history of GERD, HTN, presented with nausea and 
vomiting, CT with duodenitis. Treated with IVF, symptoms 
improved, diet advanced to regular. Likely viral etiology. 
Studies of H pylori sent, pending.
The patient was stable upon discharge. The patient was advised 
to stay adequately hydration, eat regular diet, wash hands 
thoroughly. She was advised to follow up with PCP for ___ pylori 
results. The patient declined physical therapy, preferred 
discharge to home. Risks and benefits were discussed, the 
patient and son verbalized understanding and agreed to plan
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benicar HCT (olmesartan-hydrochlorothiazide) ___ mg oral 
DAILY 
2. Venlafaxine XR 150 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Dexilant (dexlansoprazole) 60 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Benicar HCT (olmesartan-hydrochlorothiazide) ___ mg oral 
DAILY  
3.  Dexilant (dexlansoprazole) 60 mg oral DAILY  
4.  Metoprolol Succinate XL 50 mg PO DAILY  
5.  Venlafaxine XR 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Duodenitis
dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Reason for hospitalization:
Duodenitis causing nausea, vomiting, diarrhea.

Treatments in hospital:
IV fluids

Instructions for hospitalization:
1) Stay adequately hydrated. Drink plenty of fluids.
2) Eat regular diet.
3) Thoroughly wash hands with soap and water after touching 
mouth or anal area.
4) Follow up with Primary Care Physician ___ 1 week to follow up 
on results for H pylori testing in the hospital.
 
Followup Instructions:
___